US06949542B2
7,8-Dichloro-4-[3-(6-methyl-pyrazin-2-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from commercially available 4,5-dichloro-1,2-phenylendiamine (177 mg, 1.0 mmol) and 3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K16) (312 mg, 1.0 mmol) in xylene (10 ml) under reflux conditions for 1.5 h according to the general procedure M. Obtained as a light red solid (329 mg, 83%).

reactant | 4,5-dichloro-1,2-phenylendiamine | 1.0 mmol, 177 mg | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | 3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 312 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=CN=C1)C)=O | C18H20N2O3
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7,8-Dichloro-4-[3-(6-methyl-pyrazin-2-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC(=CN=C2)C)=O)C=C1Cl | C20H14Cl2N4O
